Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:5]([H:6])#[C:7][O:8][H:9].[O:1][C:2]#[C:3][H:4],2.19350785218
[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-8.12622554539
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.07228075475
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]1([H:10])[H:11],-0.0530017213696
[C:8]([H:9])#[C:10][H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11],-0.350126526201
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.96819441855
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][H:9],4.15747903813
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.63722381313
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:3],3.34069729964
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][H:11],7.38137863
[O:1][C@:2]([H:3])([C:4](=[O:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13],0.3710704990489999
[H:3].[O:1]=[C:2]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.29990861782
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],0.4661229588
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]=[O:8],0.204369420871
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7](=[O:8])[H:9],1.22190110622
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.459225315319999
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.55573230936
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],7.47029624893
[H:1][O:2][C:3]/[C:10](=[C:4]/[O:5][C:6]([H:7])([H:8])[H:9])[H:11]>>[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]1[H:11],-0.630060406211
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1],6.31890535023
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.79114768097
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4],1.66496657102
[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.132211107690001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8].[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-6.779874679380001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:4],4.71567778551
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.94806294622
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.53072845389
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.30522762088
